Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Ventral herniorrhaphy ___

 
History of Present Illness:
 
HISTORY OF PRESENTING ILLNESS
 
This patient is a ___ year old male who complains of SBO. 
The patient is a ___ gentleman transferred from ___
who wear him with a small bowel obstruction. Patient began 
to have abdominal pain approximately 24 hours ago. Of note 
he was recently in the hospital with an episode of 
congestive heart failure. The patient has a ventral hernia 
as well. He does report some pain around ventral hernia 
which is improving.
                       Timing: Gradual
                      Quality: Crampy
                     Severity: Moderate
                     Duration: Hours
                     Location: Abdomen
 
Past Medical History:
Past Medical History:
-COPD
-Atrial fibrillation
-CHF with diastolic dysfunction
-Severe aortic stenosis
-Psoriasis
-Renal cancer s/p ablation

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION upon admission:  ___
 
 Temp:97.4 HR:97 BP:124/88 Resp:16 O(2)Sat:93 
 
Constitutional: Comfortable
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and 
second heart sounds
Abdominal: Soft
Neuro: Speech fluent
Psych: Normal mood, Normal mentation

Physical examination on discharge:

vital signs:  t=98, bp=93/68-103/68, hr=91-103, sat 99% RA

General: alert and oriented x 3, speech clear, no tremors
CV: ns1, s2, -s3, -s4, no murmurs
LUNGS:  Diminished in bases
ABDOMEN:  Soft, distended, non-tender
EXT: Mild pedal edema lower ext. bil.

Wound: abdominal, staples, mild erythema lower incision, no 
exudate
 
Pertinent Results:
___ 05:30AM BLOOD Glucose-91 UreaN-17 Creat-0.7 Na-143 
K-4.2 Cl-104 HCO3-37* AnGap-6*
___ 06:00AM BLOOD Glucose-87 UreaN-23* Creat-0.9 Na-144 
K-5.1 Cl-103 HCO3-37* AnGap-9
___ 05:30AM BLOOD Calcium-7.7* Phos-2.0* Mg-2.1
___ 06:00AM BLOOD Calcium-8.4 Phos-2.4* Mg-2.2
___ 04:53PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:53PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-SM 

___ 06:10AM   SODIUM-140 POTASSIUM-4.9 CHLORIDE-97
___ 06:22PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-7.0 LEUK-TR
___ 06:22PM URINE  ___ WBC-0 ___ YEAST-NONE 
EPI-0
___ 04:10PM   GLUCOSE-133* UREA N-22* CREAT-1.3* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-94* TOTAL CO2-38* ANION GAP-9
___ 04:10PM   ALT(SGPT)-33 AST(SGOT)-23 TOT BILI-1.1
___ 04:10PM   LIPASE-24
___ 04:10PM   WBC-18.1* RBC-5.78 HGB-16.7 HCT-50.3 MCV-87 
MCH-28.9 MCHC-33.2 RDW-13.7
___ 04:10PM   NEUTS-92* BANDS-1 LYMPHS-4* MONOS-3 EOS-0 
BASOS-0 ___ MYELOS-0
___ 04:10PM   PLT SMR-NORMAL PLT COUNT-192
___ 04:10PM   ___ PTT-28.0 ___

___:  EKG

Sinus tachycardia. Early R wave transition. Intraventricular 
conduction 
defect of the right bundle-branch block variety. No previous 
tracing available for comparison

___:

URINE CULTURE (Final ___:    NO GROWTH

 
Brief Hospital Course:
  ___ year old gentleman who presented to the Acute Care Service 
with abdominal pain.
Upon admission, he was made NPO and intravenous fluids were 
administered. A ___ tube and foley catheter were place. 
After examination, he was reported to have a small bowel 
obstruction related to a strangulated ventral hernia.
  
  He was taken to the operating room on ___ where he 
underwent an exploratory laparotomy and repair of recurrent 
ventral hernia.  He tolerated the procedure with minimal blood 
loss.  His post-operative course has been stable.  His foley 
catheter and ___ tube were discontinued on POD #2. He 
is tolerating a regular diet. He has resumed his pre-operative 
medications including a bowel regimen.  He is currently on 2 
liters oxygen which he reports that he uses at home because of 
his history of COPD.  He has had a borderline blood pressure for 
which he has received additional intravenous fluid. His blood 
pressure was borderline this morning, but when repeated was 
normal and his metoprolol was resumed. His EKG done today showed 
NSR.  He did move his bowels.

  He is being discharged home today with ___ assistance. He has 
been instructed to follow-up with his primary care provider in 
the next ___ hours to review medications and discuss resuming 
coumadin and monitoring of pt/INR.  He will also need to 
follow-up with his Cardiologist, Dr. ___.  The Acute Care 
Service will see him in 2 weeks.    
 
Medications on Admission:
Current Medications:
Metoprolol XR 25 mg daily, diltiazem SR 240 mg daily, digoxin 
250
mcg daily, aspirin 81 mg daily, lasix 60 mg daily, xopenex 0.63
mg INH QID, albuterol inhaler 2 puffs Q4H PRN SOB, spiriva 1
capsule INH daily, symbicort 160/4.5 x 2 puffs INH BID, coumadin
2 mg daily
 
Discharge Medications:
1. diltiazem HCl 120 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
2. digoxin 250 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
4. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
5. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours): as needed for pain.  
6. furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation: hold for diarrhea.  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily).  
10. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) inh Inhalation Q4H (every 4 hours).  
11. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for rash: apply to rash.
Disp:*70 grams* Refills:*0*
12. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain .
Disp:*20 Tablet(s)* Refills:*0*
13. Symbicort 160-4.5 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1)  Inhalation bid ().  
14. Coumadin 2 mg Tablet Sig: One (1) Tablet PO once a day: 
monitor pt/INR.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
strangulated ventral hernia, small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You are being discharged home after repair of your hernia.  The 
following is a list of your discharge instructions:

*you may shower
*walking as tolerated
*avoid heavy lifting
*resume your home medications
*resume your regular diet

Please follow-up in the emergency room or with your primary care 
provider if you experience the following:

*chest pain
*abdominal pain
*abdominal distention
*nausea/vomitting
*red, yellow or green drainage from your incision
*fever
 
Followup Instructions:
___